US04661622
To a (2:1:2 mol) mixture of one mol (146 g) of adipic acid, 0.5 mol (45 g) of 1,3-butanediol and 1 mol (72 g) of n-butanol, were added 0.5 g of titanium tetrahydroxide and 60 ml of toluene, and dehydrating esterification was carried out. When acid value was decreased to 6 after 14 hours, 72 g (1 mol) of butanol was added and dehydrating esterification reaction was carried out until an acid value becomes 0.3. After a treatment for catalyst removal, distillation was carried out under reduced pressure to produce 65 g (about 25 mol%) of dibutyl adipate. Further 36 g (13 mol%) of ester-alcohol distillate fraction (160° C.-180° C./0.5 mmHg) was obtained. The yield of high boiling products was 128 g, 55% of the theoretical amount. Liquid chromatographic analysis results of these products showed that n=1 compound is less than the half and they are a mixture of total of 6 kinds of compounds including those with n=2 or greater. The bis-compound which distilled at 235° to 245° C./0.5 mmHg reduced pressure was 56 g which is only 24% of the calculated amount and the oligomer product was 72 g (produced in greater amount than bis-compound). By the addition of an excess amount of butanol, dehydrating esterification reaction is completed swiftly. However, ester interchange reaction occurred concurrently, and the terminals of the diol do not react and and an ester alcohol distillate fraction is formed. The diol is azeotropically distilled too. Although the composition of higher boiling products varies depending on reaction time, temperature, molar ratio, and the like, it was noted that the weight % of the bis compound never exceeded the half amount.

reactant | adipic acid | one mol, 146 g | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | 1,3-butanediol | 0.5 mol, 45 g | C(CC(C)O)O | C4H10O2
reactant | n-butanol | 1 mol, 72 g | C(CCC)O | C4H10O
reactant | butanol | 1 mol, 72 g | C(CCC)O | C4H10O
catalyst | titanium tetrahydroxide | 0.5 g | [OH-].[OH-].[OH-].[OH-].[Ti+4]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | dibutyl adipate | 65 g | C(CCCCC(=O)OCCCC)(=O)OCCCC | C14H26O4
